US04310544
Sodium hydride (1.05 g., 50% w/w dispersion in mineral oil), was added to a stirred solution of ethyl 2-hydroxy-2-phenylpropionate (3.48 g.) at 4° C. in dimethylformamide (100 ml.). After 1 hour, 4-(4-chlorophenyl)benzyl chloride (4.74 g.) was added and stirring was continued at 4° C. for 1 hour and then at room temperature for 20 hours. The mixture was neutralised by cautious addition of N-hydrochloric acid and then extracted with ether. The extracts were washed with water, dried (MgSO4) and evaporated to give ethyl 2-[4-(4-chlorophenyl)benzyloxy]-2-phenylpropionate as an oil (7.9 g.).

reactant | Sodium hydride | 1.05 g | [H-].[Na+]
reactant | ethyl 2-hydroxy-2-phenylpropionate | 3.48 g | OC(C(=O)OCC)(C)C1=CC=CC=C1 | C11H14O3
reactant | 4-(4-chlorophenyl)benzyl chloride | 4.74 g | ClC1=CC=C(C=C1)C1=CC=C(CCl)C=C1 | C13H10Cl2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 2-[4-(4-chlorophenyl)benzyloxy]-2-phenylpropionate | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)OCC)(C)C2=CC=CC=C2)C=C1 | C24H23ClO3
